US08283354B2
To a solution of 2-methoxyethyl ((R)-piperidin-3-yl)methylcarbamate (0.24 g, 1.1 mmol) and 2-(4-chloro-7-methylquinazolin-2-yl)-3-fluorophenol (250 mg, 0.865 mmol) in CH2Cl2 was added triethylamine (2.41 mL, 1.73 mmol). After stirring the reaction at room temperature for 2 h, it was quenched with water and then extracted with CH2Cl2. The combined organic layers were dried over MgSO4, filtered, and concentrated. Purification via silica gel chromatography using 0%-10% EtOAc in CH2Cl2 yielded 2-methoxyethyl ((S)-1-(2-(2-fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-3-yl)methylcarbamate (357 mg, 88%). LC/MS: m/z 469.5 (M+H)+ at 2.30 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | 2-methoxyethyl ((R)-piperidin-3-yl)methylcarbamate | 1.1 mmol, 0.24 g | N1C[C@@H](CCC1)CNC(OCCOC)=O | C10H20N2O3
reactant | 2-(4-chloro-7-methylquinazolin-2-yl)-3-fluorophenol | 0.865 mmol, 250 mg | ClC1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1F)O | C15H10ClFN2O
reactant | triethylamine | 1.73 mmol, 2.41 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-methoxyethyl ((S)-1-(2-(2-fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-3-yl)methylcarbamate | 357 mg, 88% | FC1=C(C(=CC=C1)O)C1=NC2=CC(=CC=C2C(=N1)N1C[C@@H](CCC1)CNC(OCCOC)=O)C | C25H29FN4O4
